US05179100
11-Amino-4,5-dihydro-2-(2-dimethylaminoethyl)-2H-pyrazolo [3,4-a]acridine
To a solution of 11-amino-4,5-dihydro-1H-pyrazolo[3,4-a]acridine (8.0 g) in dry DMF (240 ml) was slowly added NaH (60%)(1.69 g). The reaction was stirred at room temperature for one hour, 2-dimethylaminoethylchloride (4.64 g) was added and stirring was continued for two hours. An additional 4.64 g of 2-dimethylaminoethylchloride was added and the reaction was stirred at room temperature overnight.

reactant | 11-amino-4,5-dihydro-1H-pyrazolo[3,4-a]acridine | 8.0 g | NC=1C2=CC=CC=C2N=C2CCC3=C(C12)NN=C3 | C14H12N4
reactant | NaH | 1.69 g | [H-].[Na+]
reactant | 2-dimethylaminoethylchloride | 4.64 g | CN(CCCl)C | C4H10ClN
reactant | 2-dimethylaminoethylchloride | 4.64 g | CN(CCCl)C | C4H10ClN
solvent | DMF | 240 ml | CN(C)C=O | C3H7NO
product | 11-Amino-4,5-dihydro-2-(2-dimethylaminoethyl)-2H-pyrazolo [3,4-a]acridine | NC=1C2=CC=CC=C2N=C2CCC=3C(C12)=NN(C3)CCN(C)C | C18H21N5
